US04111923
(l) L-Arginyl-L-proline N-ethylamide, hydrochloride
A solution of 8.7 g. of Nα -benzyloxycarbonyl-L-arginyl-L-proline N-ethylamide hydrochloride in 100 ml. of methanol is stirred with 500 mg. of 20% palladium on carbon under one inch water pressure of hydrogen for three hours. The catalyst is removed by filtration and the filtrate evaporated under reduced pressure and at 35°-40° C. The residual foam is used without further purification.

reactant | Nα -benzyloxycarbonyl-L-arginyl-L-proline N-ethylamide hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)CCCNC(N)=N)=O)=O
reactant | methanol | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | water | O | H2O
product | L-Arginyl-L-proline N-ethylamide, hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](N)CCCNC(N)=N)=O)=O | InChI=1S/C13H26N6O2.ClH/c1-2-17-11(20)10-6-4-8-19(10)12(21)9(14)5-3-7-18-13(15)16;/h9-10H,2-8,14H2,1H3,(H,17,20)(H4,15,16,18);1H/t9-,10-;/m0./s1
